US08470831B2
Trimethylsilylchloride (1.68 ml, 13.3 mmol) was added dropwise to a stirred solution of phosphoric acid dibenzyl ester 5-[(E)-2-(3-chloro-phenylcarbamoyl)-vinyl]-2-methoxy-phenyl ester (1.87 g, 3.32 mmol) and NaI (1.99 g, 13.3 mmol) in dry CH3CN (40 ml). The mixture was stirred for 1 h at RT and then diluted with water and extracted with AcOEt. The organic phase was dried over sodium sulphate and evaporated in vacuo. The crude was triturated with AcOEt and Et2O, filtered and dissolved in EtOH (100 ml). NaOMe (714 mg, 13.3 mmol) was added and the resulting mixture was stirred for 2 hrs at RT. The solvent was evaporated to dryness and the residue was crystallized from water to give the title sodium (E)-5-(3-(3-chlorophenylamino)-3-oxoprop-1-enyl)-2-methoxyphenyl phosphate (1.1 g).

reactant | Trimethylsilylchloride | 13.3 mmol, 1.68 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | phosphoric acid dibenzyl ester 5-[(E)-2-(3-chloro-phenylcarbamoyl)-vinyl]-2-methoxy-phenyl ester | 3.32 mmol, 1.87 g | ClC=1C=C(C=CC1)NC(=O)/C=C/C=1C=CC(=C(C1)OP(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O)OC | C30H27ClNO6P
reactant | NaI | 13.3 mmol, 1.99 g | [Na+].[I-]
reactant | NaOMe | 13.3 mmol, 714 mg | C[O-].[Na+]
solvent | CH3CN | 40 ml | CC#N | C2H3N
solvent | water | O | H2O
product | sodium (E)-5-(3-(3-chlorophenylamino)-3-oxoprop-1-enyl)-2-methoxyphenyl phosphate | 1.1 g | P(=O)(OC1=C(C=CC(=C1)\C=C\C(=O)NC1=CC(=CC=C1)Cl)OC)([O-])[O-].[Na+].[Na+] | InChI=1S/C16H15ClNO6P.2Na/c1-23-14-7-5-11(9-15(14)24-25(20,21)22)6-8-16(19)18-13-4-2-3-12(17)10-13;;/h2-10H,1H3,(H,18,19)(H2,20,21,22);;/q;2*+1/p-2/b8-6+;;
